US05593983
A stirred mixture of (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (500 mg), sodium azide (140 mg), N,N-dimethylformamide (1.25 ml) in methanol (10 ml) and water (0.25 ml) was heated under reflux for 2 h, then cooled and poured into water (50 ml). The resulting precipitate was filtered off and dissolved in dichloromethane. After washing the solution with water and drying over sodium sulfate, the solvent was removed under reduced pressure and the residue (422 mg) was chromatographed on silica gel. The purified product was crystallised from dichloromethane-methanol to give (2β,3α,5α)-21-azido-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (176 mg). δ (CDCl3) 0.62 (s,3H), 1.06 (s,3H), 1.22 (s,3H), 1.24 (s,3H) and 3.85 (s,2H).

reactant | (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 500 mg | ClCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)N1CC(OCC1)(C)C)O)=O | C27H42ClNO4
reactant | sodium azide | 140 mg | [N-]=[N+]=[N-].[Na+]
reactant | N,N-dimethylformamide | 1.25 ml | CN(C=O)C | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 0.25 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (2β,3α,5α)-21-azido-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 176 mg | N(=[N+]=[N-])CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)N1CC(OCC1)(C)C)O)=O | C27H42N4O4
